US08378104B2
Intermediate 67: di-tert-butyl {4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-(trimethylstannanyl)furo[2,3-c]pyridin-7-yl}imidodicarbonate
To a cooled (−78° C.) solution of di-tert-butyl {4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-yl}imidodicarbonate (400 mg, 0.653 mmol) in anhydrous THF (10 mL) was added lithium diisopropylamide (2 M in THF, 1.6 mL, 3.3 mmol), and the mixture stirred for 30 minutes. Chlorotrimethylstannane (1 M in THF, 3.92 mL, 3.92 mmol) was added, and the mixture warmed to RT. The mixture was then cooled to −78° C., quenched by addition of glacial acetic acid (0.2 mL), and warmed to RT. The solution was adsorbed onto silica gel and purified by ISCO chromatography (10 to 20% EtOAc:heptane) to afford 347 mg (69%) of the title compound as a tan solid. 1H NMR (400 MHz, CDCl3): δ 0.10 (s, 6 H), 0.45 (s, 9 H), 0.92 (s, 9 H), 1.39 (s, 18 H), 1.50-1.62 (m, 2 H), 1.87-2.09 (m, 4 H), 2.24 (d, J=12.1 Hz, 2 H), 3.69-3.80 (m, 1 H), 4.21 (tt, J=11.5, 3.9 Hz, 1 H), 7.08-7.11 (m, 1 H), 7.78 (s, 1 H), 7.88-7.91 (m, 1 H), 8.31 (s, 1 H).

reactant | di-tert-butyl {4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-yl}imidodicarbonate | 0.653 mmol, 400 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC=C2 | C32H48N4O6Si
reactant | lithium diisopropylamide | 3.3 mmol, 2 M, 1.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Chlorotrimethylstannane | 3.92 mmol, 1 M, 3.92 mL | Cl[Sn](C)(C)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | di-tert-butyl {4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]-2-(trimethylstannanyl)furo[2,3-c]pyridin-7-yl}imidodicarbonate | 347 mg, 69% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC(=C2)[Sn](C)(C)C | InChI=1S/C32H47N4O6Si.3CH3.Sn/c1-30(2,3)40-28(37)36(29(38)41-31(4,5)6)27-26-24(16-17-39-26)25(19-33-27)21-18-34-35(20-21)22-12-14-23(15-13-22)42-43(10,11)32(7,8)9;;;;/h16,18-20,22-23H,12-15H2,1-11H3;3*1H3;/t22-,23-;;;;
